US05478842
Using an analogous procedure to that described in Example 18, (2S,4R)-4-(tert-butyldimethylsilyloxy)-2-methyl-4-[3-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]tetrahydropyran was reacted with allyl chloride and the resultant product was treated with tetrabutylammonium fluoride to give (2S,4R)-4-[3-(1-allyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-4-hydroxy-2-methyltetrahydropyran in 86% yield, m.p. 107°-109° C. (recrystallised from diethyl ether);

reactant | (2S,4R)-4-(tert-butyldimethylsilyloxy)-2-methyl-4-[3-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]tetrahydropyran | [Si](C)(C)(C(C)(C)C)O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)SC=1C=C2CCC(NC2=CC1)=O | C27H37NO3SSi
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2S,4R)-4-[3-(1-allyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-4-hydroxy-2-methyltetrahydropyran | 86% yield | C(C=C)N1C(CCC2=CC(=CC=C12)SC=1C=C(C=CC1)[C@@]1(C[C@@H](OCC1)C)O)=O | C24H27NO3S
